US05430171
The resulting compound was cyanogenated in the same manner as in Example 1-(2). That is, 58.5 g (0.3 mol) of n-butyl (S)-(-)-4-chloro-3-hydroxybutyrate was dissolved in 180 ml of dimethyl sulfoxide, and 67.5 ml of an aqueous solution containing 16.7 g (0.34 mol) of sodium cyanide was added thereto, followed by stirring at 65° C. for 2 hours. The reaction mixture was worked up in the same manner as in Example 1-(2) to obtain n-butyl (R)-(-)-4-cyano-3-hydroxybutyrate in a percent yield of 58%.

reactant | n-butyl (S)-(-)-4-chloro-3-hydroxybutyrate | 0.3 mol, 58.5 g | ClC[C@H](CC(=O)OCCCC)O | C8H15ClO3
reactant | sodium cyanide | 0.34 mol, 16.7 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 180 ml | CS(=O)C | C2H6OS
product | n-butyl (R)-(-)-4-cyano-3-hydroxybutyrate | yield of 58% | C(#N)C[C@H](CC(=O)OCCCC)O | C9H15NO3
